Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ year old male with a history of seizure disorder in
childhood (last seizure at ___ years old, never on antiepileptic)
and recent fall without loss of consciousness who presented to
___ with worsening headache, odd behavior and subsequent 
seizures
now transferred to ___ per request of family. 

History gathered from patient's parents and ___ records. Patient
had been in usual state of health until this past ___ when he
was at work and his foot got stuck in a hay bale and he fell
backward with head strike against a wall. He had no loss of
consciousness, nausea, vomiting, dizziness. He reportedly had a
subtle headache (mother unable to provide more information about
headache) that day but then felt well the next day and was able
to ride motorcycles and go out with friends. ___ night he
reported headache again and was sleeping more than usual. His
headache progressively worsened ___ to ___ morning
he reported his headache was "10 out of 10". He was also
nauseous, so he went to ___. At ___ he had a NHCHT which was
normal. He reported his headache was nearly gone after the ___
so he went home. Several hours later he said his headache was
back and he had worsening nausea and was saying "funny things" 
to
his mother ("you and I are professional at this"; "Do you smell
that funny smell..it's giving me bad memories"). He was 
irritable
and cussing (very atypical for him). He also had an episode of
emesis. His parents took him back to ___ where he was given
Compazine and Tylenol and he was reportedly feeling better.
However, he was still saying "odd things" and was very irritable
(saying there were bugs in his bed, cussing at ___). 

Then, while at ___ his head went slightly to the right and his
whole body stiffened and then progressed to shaking. This lasted
for 1 minute. He was sleepy afterwards. Then about 5 minutes
later his whole body went stiff again which progressed to 
shaking
and he was given 2 mg IV Ativan. He remained confused and tired
after this. 

Given his seizures, he had LP for which he rec'd Ativan 1 mg IV
and fentanyl 100 mcg. CSF showed WBC 43. CBC, chem 7, utox, etoh
level unremarkable. He was given 2g Rocephin and acyclovir given
concern for meningitis. Family requested transfer to tertiary
care center so he was transferred to ___ for further
management. At time of transfer he was reportedly "post-ictal",
sleepy and confused with intermittent agitation.

On arrival to ___, above history was gathered. Patient would
not answer ROS questions. Per mother, he had complained of
worsening headache with nausea, vomiting, dizziness over the 
past
several days. No other reported symptoms. Given combativeness
with nursing here in ED, he was given 1 mg IV Ativan.

In terms of prior seizure history, he had first seizure at 18
months old in the setting of a "virus" and fever. Per his 
mother,
his body turned to the right and eyes rolled to back of his 
head.
He had stiffening and shaking. He was post-ictal (sleepy) for
hours after this. His next seizure was at ___ years old in the
setting of another virus with fever and diarrhea. He had a
cluster of 4 seizures. He "zoned out" with "blank stare" and 
then
had same semiology as above with long post-ictal period. His 
next
seizure was at ___ years old and was also in setting of
illness/fever with semiology as above. His final seizure was at 
___
years of age in the setting of a virus. He had staring, head
turning to right and eyes in the back of his head which
progressed to "GTC" and he "turned purple". This seizure was
prolonged, but mother is not sure if it required Ativan. Per the
mother, he never had an outpatient neurologist, but saw a
neurologist in the hospital. He was never started on AED given
these were clearly always associated with illness. His mother
reports a very long post-ictal period with each event (confused,
sleepy). She also reports he would have "staring" episodes
leading up to his seizures. He also would report "smells" around
the time of seizures. In terms of other seizure risk factors, he
has had several concussions while playing football in high
school, but other than this, no major concussions other than
recent head strike. 

 
Past Medical History:
Seizure disorder - detailed above
asthma
seasonal allergies
anxiety/depression
OCD
ADHD
speech delay
"language based learning disorder"- repeated ___ grade, IEP
throughout school 

 
Social History:
___
Family History:
Paternal uncle with intellectual disability and unknown seizure
disorder. MGM with ?white matter disease (not MS and
asymptomatic, monitored). Parents healthy. No other family
history of seizure, autoimmune disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Physical Exam:
Vitals: T: 98.6 P: 112  R: 98% BP: 120/57 SaO2: RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: resisted ROM testing
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Intermittent agitation and somnolence. He is not
oriented (said he was in ___, did not answer further
questions), but able to speak in full phrases without dysarthria
at times ("leave me alone, get away from me"). He intermittently
followed commands (lift arms, open eyes).

-Cranial Nerves: pupils were 4 to 3 and brisk. Eyes conjugate on
primary gaze. He would not participate in EOM testing and
forcibly was keeping eyes closed so could not assess blink to
threat. Would not allow fundoscopic exam. No facial droop while
grimacing, could not assess mouth as he was moving head and
resisting exam. 

Sensory/motor: patient moving extremities spontaneously to push
away staff and examiner, withdrew to light stimuli in all
extremities. would not participate in confrontational testing. 

-DTRs: no clonus at ankles, patient resisting reflexes
Plantar response was flexor bilaterally.

-Coordination: could not assess given resisting and not 
complying
with exam, no ataxia when reaching for covers or pushing away
examiner

-Gait: could not assess

DISCHARGE PHYSICAL EXAM:
General: Awake, alert, conversational, 
Pulm: breathing comfortably on room air. 
Cardiac: RRR
Ext: good peripheral perfusion

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.
-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
     Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc  
L     ___   5   5    ___   ___     5  
R     ___   5   5    ___   5   5    5    5   
-Sensory: No deficits to light touch throughout.
-DTRs:
  Bi Tri ___ Pat Ach
L ___     2  1
R ___     2  1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.
-Gait: walking to bathroom with normal gait
 
Pertinent Results:
___ 09:52AM BLOOD WBC-4.9 RBC-4.66 Hgb-14.4 Hct-41.3 MCV-89 
MCH-30.9 MCHC-34.9 RDW-11.1 RDWSD-35.7 Plt ___
___ 09:52AM BLOOD Plt ___
___ 09:52AM BLOOD Glucose-207* UreaN-6 Creat-1.1 Na-138 
K-3.7 Cl-102 HCO3-25 AnGap-11
___ 05:20AM BLOOD ALT-15 AST-25 AlkPhos-53 TotBili-0.3
___ 09:52AM BLOOD Calcium-8.5 Phos-1.9* Mg-1.8

CSF from ___ WBC 43 RBC 216 glc 73 Prot 34
CSF gram stain negative CSF culture negative CSF HSV PCR 
negative 
 
Brief Hospital Course:
___ is ___ year old with history of febrile seizures in 
childhood, anxiety and recent fall with head strike who presents 
with several days of worsening headache, odd behavior and 
subsequent tonic clonic seizure x2, found to have 42 WBC in the 
CSF consistent with meningitis/encephalitis; patient was 
transferred to ___ from ___ for further management.

#Altered mental status - Differential includes meningitis vs 
encephalitis, encephalitis thought to be more likely given 
temporal lobe involvement on EEG;
MRI pending. Etiology thought to be viral in origin given high 
CSF glucose, negative CSF gram stain and culture. HSV PCR 
negative, so viral etiology thought to be a virus that we are 
unable to identify. Patient did not have any signs of concussion 
on admission, and history is not consistent with concussion 
given no loss of consciousness, fatigue, or persistent headache. 

Patient was started on vancomycin, ceftriaxone, and acyclovir at 
___ prior to transfer. The antibiotics were continued until the 
CSF culture and gram stain were negative >48 hours, and were 
discontinued on ___. The HSV PCR resulted negative on ___, and 
acyclovir was discontinued. Patient was stable for discharge 
home with outpatient neurology follow up on ___ as patient at 
neurologic baseline.
Patient was counseled extensively regarding not driving for 6 
months since his last seizure on ___. This would mean the first 
day he can drive is ___ (assuming patient has no 
further seizures until then). We discussed that driving would 
put him, and others at risk as he could have a seizure at any 
time and lose control of the vehicle and injure himself or 
others. ___ expressed understanding of this. We also counseled 
him about general seizure safety, detailed in note in OMR. 
Additionally, we discussed his diagnosis and workup with his 
primary care doctor extensively. 

#Seizures ___ viral encephalitis
Patient was monitored on cvEEG on arrival due to his two 
seizures at the OSH consistent with right head turn and 
stiffening, and had two 40 second seizures on EEG on ___. 
Depakote was uptitrated, and patient had no more seizures. Blood 
levels of Depakote were checked after uptitration and were found 
to be therapeutic. On ___, patient was transitioned to oral 
Depakote of an equivalent dose. MRI brain with and without 
contrast was normal, study motion degraded but no obvious 
abnormalities. Patient will need follow up in neurology to 
determine need for AED continuation long term.  

Transitional Issues:
[ ] Follow up with neurology as scheduled
[ ] Follow up with PCP within the week to be scheduled for 
patient  
[ ] Routine blood work and Depakote level in 1 month with your 
primary care provider
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Levalbuterol Neb 0.63 mg NEB Q4H:PRN wheezing 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral meningitis/encephalitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
You were transferred from ___ because you had 
seizures, and they performed a spinal tap which suggested that 
you had an infection of your brain. We continued you on 
antibiotics and antiviral medications, and waited for all your 
cultures to come back. All the cultures were negative, so we 
think that you had a viral infection of the brain and its 
covering which was a virus that our tests don't check for. You 
had 2 seizures at ___, and we monitored you on EEG and 
we saw two more small seizures. We started you on medication to 
prevent seizure, and increased the dose to ensure a good level 
in your blood. You should follow up with your primary care 
doctor this week, and have blood levels of your seizure 
medication checked in a month. We will also follow up with you 
in a few months to see how you are doing on the seizure 
medications. 
As a reminder, you cannot drive for 6 months after your last 
seizure on ___ (this means the earliest you can drive 
is ___ as long as you don't have any more 
seizures). We are giving you another letter with more 
information regarding seizure safety. 
It was a pleasure taking care of you and we wish you the best!
Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___